US05866592
N-4-Cyanobenzoyl-β-m-chlorophenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid methyl ester (80 mg, 0.16 mmol) was dissolved in pyridine (10 ml). To the resulting solution was added triethylamine (1 ml) and the mixture was saturated with hydrogen sulfide gas. The reaction vessel was sealed and the reaction mixture was stirred at room temperature overnight. The pyridine was distilled off and the volatile products were removed by two cycles of toluene azeotropy. The residue was dissolved in acetone (15 ml) and methyl iodide (1 ml) was added thereto, followed by refluxing for 30 minutes. The solvent was distilled off and the residue was dissolved in methanol (10 ml). To the obtained solution was added ammonium acetate (100 mg) and the mixture was refluxed for 2 hours. After the solvent was distilled off, the residue was dissolved in chloroform, washed with a saturated aqueous solution of NaCl and dried over anhydrous sodium sulfate. The obtained crude N-4-amidinobenzoyl-β-m-chlorophenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid methyl ester (18 mg) was dissolved in an 50% aqueous methanol solution (10 ml). To the resulting solution was added a 2N aqueous solution of lithium hydroxide (3 ml) at room temperature and the mixture was stirred for 15 minutes. After the reaction solution was neutralized with 3N HCl to pH 7, the solvents were distilled off and the residue was dissolved in a 1N aqueous solution of acetic acid. The resulting solution was purified with a HPLC to yield N-(N-4-amidinobenzoyl-β-m-chlorophenyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid (3.5 mg, 20.0%).

reactant | N-4-Cyanobenzoyl-β-m-chlorophenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid methyl ester | 0.16 mmol, 80 mg | COC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C1=CC(=CC=C1)Cl)(C)C)=O)=O | C27H30ClN3O4
reactant | hydrogen sulfide | S | H2S
reactant | lithium hydroxide | 3 ml | [OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | methanol | 10 ml | CO | CH4O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | N-(N-4-amidinobenzoyl-β-m-chlorophenyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid | 3.5 mg, 20.0% | C(N)(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)O)(C)C)C2=CC(=CC=C2)Cl)C=C1 | C26H31ClN4O4
